US08445684B2
tert-Butyl 3-Iodobenzylcarbamate
In a 100 mL round-bottom flask with magnetic stirrer and balloon (for pressure equalization and exclusion of moisture), a solution of di-tert-butyl dicarbonate (0.72 g, 3.3 mmol, 1.2 equiv.) in CH2Cl2 (5 mL) was added all at once at room temperature to a solution of 3-iodobenzylamine (641 mg, 2.75 mmol) and triethylamine (0.57 mL, 4.1 mmol, 1.5 equiv.) in CH2Cl2 (10 mL). The mixture was stirred at room temperature for 4.5 h. TLC after 3.5 h (SiO2, EtOAc/hexane/Et3N 22:78:5) indicated complete conversion of the amine (Rf approx. 0.05), whereas a strongly UV-active impurity (Rf approx. 0.65) remained unchanged, and the product was detected at Rf approx. 0.55. With EtOAc/hexane 1:9 as eluent, product and impurity exhibit Rf values of approx. 0.2 and 0.4, respectively. The reaction mixture was evaporated, and the residue was chromatographed on SiO2 (26×3.8 cm, EtOAc/hexane 6:94 until the nonpolar impurity was completely eluted, then 1:4). Evaporation and drying (40° C./oil pump) furnished 820 mg (89%) of a colorless solid. Mp 53.5-54.5° C. MS (EI) m/z 333 (M+, 0.2%), 277 (33%), 276 (38%), 232 (6.4%), 217 (11%), 150 (5.4%), 106 (19%), 59 (26%), 57 (100%).

reactant | di-tert-butyl dicarbonate | 3.3 mmol, 0.72 g, 1.2 equiv. | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-iodobenzylamine | 2.75 mmol, 641 mg | IC=1C=C(CN)C=CC1 | C7H8IN
reactant | triethylamine | 4.1 mmol, 0.57 mL, 1.5 equiv. | C(C)N(CC)CC | C6H15N
reactant | EtOAc hexane Et3N | CCOC(=O)C.CCCCCC.CCN(CC)CC
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | tert-Butyl 3-Iodobenzylcarbamate | 820 mg, 89% | IC=1C=C(CNC(OC(C)(C)C)=O)C=CC1 | C12H16INO2
